US08877351B2
Step 2: Synthesis of 2-Chloro-Dibenzo[f,h]Quinoxaline
Next, 18 mL of phosphoryl chloride was dripped into 2.91 g of dibenzo[f,h]quinoxaline-1-oxide obtained in the above Step 1. This mixed solution was stirred while being heated under reflux for 1 hour. This mixed solution was poured into iced water, followed by addition of potassium carbonate so that the mixture was alkaline. This solution was filtered, and the obtained residue was washed with water and then methanol to give the object of the synthesis (as a pale yellow powder in a yield of 93%). The synthesis scheme of Step 2 is illustrated in the following (a″′-2-2).

reactant | phosphoryl chloride | 18 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dibenzo[f,h]quinoxaline-1-oxide | 2.91 g | [N+]1(=CC=NC2=C3C(=C4C(=C12)C=CC=C4)C=CC=C3)[O-] | C16H10N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-Chloro-Dibenzo[f,h]Quinoxaline | yield of 93% | ClC1=NC2=C3C(=C4C(=C2N=C1)C=CC=C4)C=CC=C3 | C16H9ClN2
